US06002008
4-[(3-Bromophenyl)amino]-8-dimethylaminomethyl-6-nitro-3-quinolinecarbonitrile
To a stirred solution of dimethylamine in THF (2.0 M; 115 ml; 230 mmol) at 0° C. was added a solution of 8-bromomethyl 4[(3-bromophenyl)-N-acetylamino]- -6-nitro-3-quinolinecarbonitrile (11.6 g, 23 mmol) in 115 ml of THF during 15 m. After warming to 25° C. the mixture was stirred for 2 h. The THF was evaporated off, and the residue was refluxed in 230 ml of methanol with 12.7 g (92 mmol) of potassium carbonate for 1 h. The mixture was cooled, saturated with CO2, and concentrated. The residue was partitioned with methylene chloride and water. The organic layer was washed with water, dried, and concentrated. The residue was subjected to chromatography on silica gel with methylene chloride-ethyl acetate-methanol-triethylamine to give 6.0 g yellow solid, mp 223-226° C.

reactant | dimethylamine | CNC | C2H7N
reactant | 8-bromomethyl 4[(3-bromophenyl)-N-acetylamino]- -6-nitro-3-quinolinecarbonitrile | 23 mmol, 11.6 g | BrCC=1C=C(C=C2C(=C(C=NC12)C#N)N(C(C)=O)C1=CC(=CC=C1)Br)[N+](=O)[O-] | C19H12Br2N4O3
reactant | potassium carbonate | 92 mmol, 12.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 115 ml | C1CCOC1 | C4H8O
solvent | methanol | 230 ml | CO | CH4O
solvent | THF | 230 mmol, 2.0 M, 115 ml | C1CCOC1 | C4H8O
product | 4-[(3-Bromophenyl)amino]-8-dimethylaminomethyl-6-nitro-3-quinolinecarbonitrile | 6.0 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=C(C=C(C=C12)[N+](=O)[O-])CN(C)C)C#N | C19H16BrN5O2
